US06355798B1
7-Cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazin-6-ylamine
6-Chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine (200 mg, 0.70 mmol) was suspended in methanol (8 ml). The mixture was saturated with ammonia and heated in a sealed tube at 50° C. overnight. The mixture was evaporated in vacuo, triturated (diethyl ether/hexane) and dried to give the title compound 1H NMR (360 MHz, d6-DMSO) δ 1.82-1.87 (1H, m), 1.99-2.35 (5H, m), 3.54-3.64 (1H, m), 7.34 (2H, vbs), 7.48-7.62 (3H, m), 8.08 (1H, s), 8.41 (2H, d, J=7.1 Hz); MS (ES+) m/e 266 [MH]+.

reactant | 6-Chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 0.70 mmol, 200 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2CCC2 | C15H13ClN4
reactant | ammonia | N | H3N
solvent | methanol | 8 ml | CO | CH4O
product | 7-Cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazin-6-ylamine | C1(CCC1)C1=CC=2N(N=C1N)C(=NN2)C2=CC=CC=C2 | C15H15N5
